US09255090B2
Synthesis (±)-2-(4-Bromo-3-methoxy-phenoxy)-propionic acid methyl ester (C11H13O4Br, MW=288.00)
4-Bromo-3-methoxyphenol (209 mg, 1 mmol, 1 eq.) was dissolved in MeCN (4 mL). (±)-2-(Toluene-4-sulfonyloxy)-propionic acid methyl ester (258 mg, 1 mmol, 1 eq.) and K2CO3 (276 mg, 2 mmol, 2 eq.) were added and the mixture was stirred at 65° C. for 6 hours and further at r.t. for 4 days. The mixture was partitioned between water and Et2O. The layers were separated and the aq. phase was extracted with Et2O (2×). The comb. org. phases were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flashmaster (column: 25 g, flow: 30 mL/min, 30 fractions of 30 mL, Heptane 100% to Heptane+20% AcOEt) to the title compound as a colorless oil.

reactant | 4-Bromo-3-methoxyphenol | 1 mmol, 209 mg, 1 eq. | BrC1=C(C=C(C=C1)O)OC | C7H7BrO2
reactant | (±)-2-(Toluene-4-sulfonyloxy)-propionic acid methyl ester | 1 mmol, 258 mg, 1 eq. | COC(C(C)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C11H14O5S
reactant | K2CO3 | 2 mmol, 276 mg, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 4 mL | CC#N | C2H3N
product | (±)-2-(4-Bromo-3-methoxy-phenoxy)-propionic acid methyl ester | COC(C(C)OC1=CC(=C(C=C1)Br)OC)=O | C11H13BrO4
